US06541505B1
4-[2-amino-1,1-dimethyl-ethyl]-N-[2-(3-cyano-1H-indol-5-yl)-ethyl]-benzamide.
To a solution of (2-[4-[2-(3-cyano-1H-indol-5-yl)-ethylcarbamoyl]-phenyl]-2-methyl-propyl)-carbamic acid tert-butyl ester (1.16 g, 2.5 mmol) (prepared using the procedure of reference example 1w) in CH2Cl2 (8 ml) was added TFA (1.6 ml) and the reaction stirred 2 hrs. Water (50 μL) was add-ed and the reaction concentrated under reduced pressure. The residue was purified by flash chromatography (eluting with 10% 7M NH3 in CH3OH/CH2Cl2) to give 808 mg of product. MS (ion spray) m/z 361 (M+H)+.

reactant | (2-[4-[2-(3-cyano-1H-indol-5-yl)-ethylcarbamoyl]-phenyl]-2-methyl-propyl)-carbamic acid tert-butyl ester | 2.5 mmol, 1.16 g | C(C)(C)(C)OC(NCC(C)(C)C1=CC=C(C=C1)C(NCCC=1C=C2C(=CNC2=CC1)C#N)=O)=O | C27H32N4O3
reactant | TFA | 1.6 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Water | 50 μL | O | H2O
solvent | CH2Cl2 | 8 ml | C(Cl)Cl | CH2Cl2
product | 4-[2-amino-1,1-dimethyl-ethyl]-N-[2-(3-cyano-1H-indol-5-yl)-ethyl]-benzamide | 808 mg | NCC(C)(C)C1=CC=C(C(=O)NCCC=2C=C3C(=CNC3=CC2)C#N)C=C1 | C22H24N4O
